US07915271B2
3′-iodo-4′-methoxy-2-methylbiphenyl-4-carboxylate (500 mg, 1.308 mmol), bis(pinacolato)diboron (353 mg, 1.57 mmol), 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane adduct (214 mg, 0.262 mmol), potassium acetate (257 mg, 2.616 mmol) and 1,4-dioxane (2.5 mL) were placed in a sealed tube and subjected to microwave irradiation at 140° C. for 20 minutes then at 130° C. for 30 minutes. The crude reaction was treated with brine followed by ethyl acetate extractions. The combined extracts were dried over Na2SO4 followed by filtration and concentration in vacuo to afford methyl 4′-methoxy-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate as a dark oil which was used in the next step without further purification. LCMS calc.=382.20; found=383.41 (M+1)+.

reactant | 3′-iodo-4′-methoxy-2-methylbiphenyl-4-carboxylate | 1.308 mmol, 500 mg | IC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(=O)[O-])C
reactant | bis(pinacolato)diboron | 1.57 mmol, 353 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.616 mmol, 257 mg | C(C)(=O)[O-].[K+]
reactant | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | brine | [Cl-].[Na+].O
catalyst | 1,1′-bis(diphenylphosphino)ferrocene-palladium dichloride dichloromethane | 0.262 mmol, 214 mg | ClCCl.[Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
product | methyl 4′-methoxy-2-methyl-3′-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)biphenyl-4-carboxylate | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(=O)OC)C)B1OC(C(O1)(C)C)(C)C | C22H27BO5
